US07501518B2
To a solution of (3,5-dimethyl-pyridin-2-yl)-methanol (2.12 g, 15.45 mmol) (Weidmann, K., et al., J. Med. Chem. (1992) 35:438-450) in CH2Cl2 (50 mL) was added MnO2 (9.41 g, 108.18 mmol) and the reaction mixture was refluxed overnight. Then it was cooled and the mixture was filtered through a layer of celite. The filtrate was concentrated to afford a brown/yellow oil. Purification by flash column chromatography on silica gel using 30% EtOAc/hexane afforded 3,5-dimethyl-pyridine-2-carbaldehyde as a yellow oil (960 mg, 31% over 3 steps). 1H NMR (CDCl3) δ 2.39 (s, 3H), 2.62 (s, 3H), 7.41 (s, 1H), 8.47 (s, 1H), 10.15 (s, 1H).

reactant | (3,5-dimethyl-pyridin-2-yl)-methanol | 15.45 mmol, 2.12 g | CC=1C(=NC=C(C1)C)CO | C8H11NO
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
catalyst | MnO2 | 108.18 mmol, 9.41 g | O=[Mn]=O
product | 3,5-dimethyl-pyridine-2-carbaldehyde | CC=1C(=NC=C(C1)C)C=O | C8H9NO
